US04965270
9-(3-Benzyloxyprop-1-oxy)-6-chloro-2-formamidopurine (3.40 g, 9.41 mmol) in 80% formic acid (100 ml) was heated at 100° C. for 1 hour. The reaction mixture was then cooled and stirred with 10% palladium on charcoal (2.0 g) under an atmosphere of hydrogen at 20° C. for 45 minutes. After removal of the catalyst, the solution was evaporated and the residue was treated with water (50 ml) and concentrated aqueous ammonia (4 ml) at 100° C. for 15 minutes. The solution was then cooled and evaporated under reduced pressure. Recrystallisation of the residue from water afforded 9-(3-hydroxyprop-1-oxy)guanine (800 mg, 33%). 1H NMR: δH [(CD3)2SO] 1.80 (2H, quintet, J=6.3, 6.6 Hz, CH2CH2CH2), 3.55 (2H, quartet, J=5.50, 5.8 Hz, CH2OH), 4.32 (2H, t, J=6.6 Hz, CH2ON), 4.57 (1H, t, J=5.5 Hz, D2O exchangeable, OH), 6.57 (2H, br.s, D2O exchangeable, NH2), 7.91 (1H, s, H-8), 10.63 (1H, br.s, D2O exchangeable, H-1).

reactant | 9-(3-Benzyloxyprop-1-oxy)-6-chloro-2-formamidopurine | 9.41 mmol, 3.40 g | C(C1=CC=CC=C1)OCCCON1C2=NC(=NC(=C2N=C1)Cl)NC=O | C16H16ClN5O3
reactant | formic acid | 100 ml | C(=O)O | CH2O2
catalyst | palladium on charcoal | 2.0 g | [Pd] | Pd
product | 9-(3-hydroxyprop-1-oxy)guanine | 800 mg, 33% | OCCCON1C=2N=C(NC(C2N=C1)=O)N | C8H11N5O3
